US06165800
3-(m-Nitrobenzyloxy)acridine-9-carboxylic acid
3-(m-Nitrobenzyloxy)acridine-9-carboxylic acid methylester (6.5 g; 16.7 mmol) was refluxed in 400 ml dioxane and 300 ml NaOH 1N. After 2 hours the solution was cooled and acidified to pH 1 with HCl conc., then evaporated in vacuo. The precipitate was collected on a Buchner funnel, washed with water and dried in vacuo at 50° C. Yield 5.9 g (95%), Fp.>250° C. 1H-NMR(DMSO-d6): 8.44(1H, s, ar.); 8.23(1H, d, ar.); 8.10(2H, t, ar.); 8.03(1H, d, ar.); 7.95(1H, d, ar.); 7.72(2H. m, ar.); 7.42(2H, m, ar.); 7.27(1H, d, ar.); and 5.50 ppm (2H, s, CH2). MS: M+ =374.

reactant | 3-(m-Nitrobenzyloxy)acridine-9-carboxylic acid methylester | 16.7 mmol, 6.5 g | COC(=O)C=1C2=CC=CC=C2N=C2C=C(C=CC12)OCC1=CC(=CC=C1)[N+](=O)[O-] | C22H16N2O5
reactant | HCl | Cl | ClH
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
solvent | NaOH | 1N, 300 ml | [OH-].[Na+]
product | 3-(m-Nitrobenzyloxy)acridine-9-carboxylic acid | [N+](=O)([O-])C=1C=C(COC=2C=CC3=C(C4=CC=CC=C4N=C3C2)C(=O)O)C=CC1 | C21H14N2O5
